US08791107B2
PREPARATION x6: 2-chloro-5-(2-chloro-4-(methylsulfonyl)benzyl)-5,6,6a,7,9,10-hexahydro-[1,4]oxazino[3,4-h]pteridine
2-Chloro-5,6,6a,7,9,10-hexahydro-[1,4]oxazino[3,4-h]pteridine (PREPARATION x2, 200 mg, 0.882 mmol) was dissolved in DMSO (4.4 mL). Sodium tert-butoxide (102 mg, 1.059 mmol) was then added to give a brown solution. After 5 minutes, 1-(bromomethyl)-2-chloro-4-(methylsulfonyl)benzene (250 mg, 0.882 mmol) was added dropwise. The reaction mixture was stirred for 18 hours. Additional sodium tert-butoxide (0.5 eq) was added and the reaction mixture was stirred for an additional 18 hours. The reaction mixture was subsequently diluted with ethyl acetate and was washed with aqueous saturated NH4Cl (3×25 mL). The combined organic layers were dried over MgSO4, filtered, and concentrated in vacuo. The crude product was loaded onto an ISCO® silica gel cartridge (12 g) and eluted with an ethyl acetate/hexane gradient. The product was collected and concentrated in vacuo to afford the title compound as a yellow oil (143 mg, 37%). ESI-MS m/z [M+H]+ calc'd for C17H18Cl2N4O3S, 430.3. found 431.3.

reactant | 2-Chloro-5,6,6a,7,9,10-hexahydro-[1,4]oxazino[3,4-h]pteridine | 0.882 mmol, 200 mg | ClC1=NC=2N3C(CNC2C=N1)COCC3 | C9H11ClN4O
reactant | Sodium tert-butoxide | 1.059 mmol, 102 mg | CC(C)([O-])C.[Na+]
reactant | 1-(bromomethyl)-2-chloro-4-(methylsulfonyl)benzene | 0.882 mmol, 250 mg | BrCC1=C(C=C(C=C1)S(=O)(=O)C)Cl | C8H8BrClO2S
reactant | sodium tert-butoxide | 0.5 eq | CC(C)([O-])C.[Na+]
solvent | DMSO | 4.4 mL | CS(=O)C | C2H6OS
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 2-chloro-5-(2-chloro-4-(methylsulfonyl)benzyl)-5,6,6a,7,9,10-hexahydro-[1,4]oxazino[3,4-h]pteridine | 143 mg, 37% | ClC1=NC=2N3C(CN(C2C=N1)CC1=C(C=C(C=C1)S(=O)(=O)C)Cl)COCC3 | C17H18Cl2N4O3S
